US07897619B2
To a solution of tert-butyl(S)-1-(5-(isoquinolin-6-yl)isoxazol-3-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.027 g, 0.053 mmol) in 5 mL of DCM was added TFA (0.50 mL, 6.5 mmol). The mixture was stirred for 30 minutes and diluted with 20 mL of EtOAc. The mixture was washed twice with 10 mL of 10% aqueous Na2CO3 and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (5% to 10% MeOH/DCM) afforded N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(isoquinolin-6-yl)isoxazol-3-amine (0.013 g, 60% yield) as a clear oil. MS m/z: 413 (M+1); 1H NMR (400 MHz, CD3OD) δ ppm 9.26 (s, 1H), 8.48 (d, J=5.8 Hz, 1H), 8.34 (s, 1H), 8.19 (d, J=8.6 Hz, 1H), 8.01 (dd, J=1.3 Hz, 8.6 Hz, 1H), 7.90 (d, J=5.9 Hz, 1H), 7.62 (d, J=8.2 Hz, 2H), 7.47 (d, J=8.0 Hz, 2H), 6.52 (s, 1H), 3.45-3.25 (m, 2H), 3.34 (s, 2H), 3.18 (dd, J=7.4 Hz, 13.5 Hz, 1H), 3.00 (dd, J=5.5 Hz, 13.5 Hz, 1H), 2.75 (dd, J=7.9 Hz, 13.5 Hz, 1H), 2.22 (dt, 1.8 Hz, 6.7 Hz, 1H).

reactant | tert-butyl(S)-1-(5-(isoquinolin-6-yl)isoxazol-3-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.053 mmol, 0.027 g | C1=NC=CC2=CC(=CC=C12)C1=CC(=NO1)NC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C27H27F3N4O3
reactant | TFA | 6.5 mmol, 0.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(isoquinolin-6-yl)isoxazol-3-amine | 0.013 g, 60% yield | N[C@H](CNC1=NOC(=C1)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)C(F)(F)F | C22H19F3N4O
